US06784137B2
A solution of methyl 5,6-dichloropyridine-2-carboxylate-N-oxide (22.0 g, 0.100 mol) and phosphorus oxychloride (15.70 mL, 0.169 mol) was heated at 70° C. for 36 hours. The solvent was removed and the residue carefully taken up into diethyl ether and water. The organic layer was washed with saturated sodium bicarbonate solution, water, brine, dried and concentrated to give methyl 4,5,6-trichloropyridine-2-carboxylate (20.0 g, 0.083 mol). 1H NMR (CDCl3): δ 8.16 (s, 1H), 4.02 (s, 3H).

reactant | methyl 5,6-dichloropyridine-2-carboxylate-N-oxide | 0.100 mol, 22.0 g | ClC1=CC=C([N+](=C1Cl)[O-])C(=O)OC | C7H5Cl2NO3
reactant | phosphorus oxychloride | 0.169 mol, 15.70 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl 4,5,6-trichloropyridine-2-carboxylate | 0.083 mol, 20.0 g | ClC1=CC(=NC(=C1Cl)Cl)C(=O)OC | C7H4Cl3NO2
